US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-isonicotinamide
2-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide and pyrrolidine were reacted as described for 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide in WO03/043636. Usual workup, preparative reversed-phase HPLC and final dry-freezing afforded the tide compound as light brown solid (56% yield). Mp 100-107° C., MS: m/e=487(M+H+).

reactant | 2-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3COCCOC3)OC)C=CN1 | C20H20ClN3O4S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COCCN(C)CC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C23H29N5O4S
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-isonicotinamide | 56% yield | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)CN(C)CCOC)=O)OC | C24H30N4O5S
